### PR TITLE
[Merged by Bors] - feat(CategoryTheory): left and right lifting properties

### PR DESCRIPTION
**Pull request by mckoen**
Defines left/right lifting property wrt a `MorphismProperty` and shows basic closure properties (retracts, pullback/pushout, composition etc.).

---

- [x] depends on: #19233

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 1]
```diff
@@ -0,0 +1,159 @@
...
+
+universe v u
+
+namespace CategoryTheory
+
+variable {C : Type u} [Category.{v} C]
+
+/-- `f : X ⟶ Y` is a retract of `g : Z ⟶ W` if there are morphisms `i : f ⟶ g`
+and `r : g ⟶ f` in the arrow category of `C` such that `i ≫ r = 𝟙 f`. -/
+class IsRetract {X Y Z W : C} (f : X ⟶ Y) (g : Z ⟶ W) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:27]: As this contains data, this should not be named `IsRetract`. Also, this notion should be defined in any category, not just the `Arrow` category.

Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:27]: (Maybe use an abbrev `RetractArrow {X Y Z W : C} (f : X ⟶ Y) (g : Z ⟶ W) : Prop` for the arrow variant.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 2]
```diff
@@ -0,0 +1,159 @@
...
+  have := ω =≫ H.i.right
+  rw [Category.assoc, Category.assoc, ← h, ← Category.assoc, ← Category.assoc] at this
+  have ω' := p.right_cancellation (α ≫ H.i.left) (β ≫ H.i.left) this =≫ H.r.left
+  have : H.i.left ≫ H.r.left = 𝟙 X := Arrow.hom.congr_left H.retract
+  rwa [Category.assoc, Category.assoc, this, Category.comp_id, Category.comp_id] at ω'
+
+end Retract
+
+/-- The left lifting property (llp) with respect to a class of morphisms. -/
+def Llp (T : MorphismProperty C) : MorphismProperty C := fun _ _ f ↦
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:61]: Arguably, both `Llp` or `llp` would be ok, but in mathlib, we have considered morphism properties more as terms in `MorphismProperty` rather than a type, so that `llp/rlp` would fit more our current use.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 3]
```diff
@@ -0,0 +1,159 @@
...
+  ∀ ⦃X Y : C⦄ ⦃g : X ⟶ Y⦄ (_ : T g), HasLiftingProperty f g
+
+/-- The right lifting property (rlp) with respect to a class of morphisms. -/
+def Rlp (T : MorphismProperty C) : MorphismProperty C := fun _ _ f ↦
+  ∀ ⦃X Y : C⦄ ⦃g : X ⟶ Y⦄ (_ : T g), HasLiftingProperty g f
+
+lemma Llp.IsStableUnderRetracts {T : MorphismProperty C} : T.Llp.IsStableUnderRetracts := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:68]: It would be nice to break this into an auxiliary lemma `HasLiftingProperty g f : HasLiftingProperty g' f` assuming `Retract g' g`.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 4]
```diff
@@ -0,0 +1,159 @@
...
+  all_goals dsimp [newCone]; intro j; cases j; simp only [Limits.cospan_one, condition_one,
+    IsPullback.cone_fst, Category.assoc]
+  · rw [← Category.assoc u, ← lift.fac_left, ← l', Category.assoc, Category.assoc]
+  · rename_i k; cases k; all_goals dsimp
+    · rw [← lift.fac_left, ← l', Category.assoc]
+    · rw [← sq.w, Category.assoc, l, sq.w]
+  · rename_i k; cases k; all_goals dsimp
+    exact sq.w
+
+instance Rlp.IsStableUnderComposition (T : MorphismProperty C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:137]: You may add `RespectsIso`, and `IsMultiplicative` instances.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 5]
```diff
@@ -0,0 +1,159 @@
...
+  all_goals dsimp [newCocone]; intro j; cases j; simp only [Limits.span_zero, condition_zero,
+    IsPushout.cocone_inl, Category.assoc]
+  · rw [← Category.assoc, ← Category.assoc, Category.assoc s f' lift', l, ← sq.w, Category.assoc]
+  · rename_i k; cases k; all_goals dsimp
+    · rw [← Category.assoc, l, sq.w]
+    · rw [← Category.assoc, l', lift.fac_right]
+  · rename_i k; cases k; all_goals dsimp
+
+open Limits.PullbackCone in
+instance Rlp.IsStableUnderBaseChange {T : MorphismProperty C} :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:115]: You may also add a `IsStableUnderProductsOfShape` lemma (and also the dual `IsStableUnderCoproductsOfShape`, even though the latter is not defined yet in `MorphismProperty.Limits`).

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 6]
```diff
@@ -0,0 +1,159 @@
...
+def Rlp (T : MorphismProperty C) : MorphismProperty C := fun _ _ f ↦
+  ∀ ⦃X Y : C⦄ ⦃g : X ⟶ Y⦄ (_ : T g), HasLiftingProperty g f
+
+lemma Llp.IsStableUnderRetracts {T : MorphismProperty C} : T.Llp.IsStableUnderRetracts := by
+  refine ⟨fun {X Y} _ _ f f' H L _ _ g h ↦ ⟨fun {u v} sq ↦ ?_⟩⟩
+  have : (H.r.left ≫ u) ≫ g = f' ≫ (H.r.right ≫ v) := by simp [sq.w]
+  obtain lift := ((L h).sq_hasLift (CommSq.mk this)).exists_lift.some
+  refine ⟨H.i.right ≫ lift.l, ?_, ?_⟩
+  · have h : H.i.left ≫ f' = f ≫ H.i.right := H.i.w
+    have h' : H.i.left ≫ H.r.left = 𝟙 X := Arrow.hom.congr_left H.retract
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:74]: This suggests there are missing lemmas in the `Retract` API.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 7]
```diff
@@ -0,0 +1,159 @@
...
+  ∀ ⦃X Y : C⦄ ⦃g : X ⟶ Y⦄ (_ : T g), HasLiftingProperty f g
+
+/-- The right lifting property (rlp) with respect to a class of morphisms. -/
+def Rlp (T : MorphismProperty C) : MorphismProperty C := fun _ _ f ↦
+  ∀ ⦃X Y : C⦄ ⦃g : X ⟶ Y⦄ (_ : T g), HasLiftingProperty g f
+
+lemma Llp.IsStableUnderRetracts {T : MorphismProperty C} : T.Llp.IsStableUnderRetracts := by
+  refine ⟨fun {X Y} _ _ f f' H L _ _ g h ↦ ⟨fun {u v} sq ↦ ?_⟩⟩
+  have : (H.r.left ≫ u) ≫ g = f' ≫ (H.r.right ≫ v) := by simp [sq.w]
+  obtain lift := ((L h).sq_hasLift (CommSq.mk this)).exists_lift.some
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:71]: The `HasLiftingProperty` API should be improved in order to provide a choice of a lifting and both `fac_left/fac_right` lemmas. This could defined as `CommSq.lift` under a suitable `[HasLiftingProperty i p]` assumption.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:27]: Basic notions about retracts could to in a file like `CategoryTheory.Retract`.

File: Mathlib/CategoryTheory/Retract.lean [hunk 8]
```diff
@@ -0,0 +1,87 @@
...
+namespace RetractArrow
+
+variable {X Y Z W : C} {f : X ⟶ Y} {g : Z ⟶ W} (h : RetractArrow f g)
+
+lemma leftSqComm : h.i.left ≫ g = f ≫ h.i.right := h.i.w
+
+lemma rightSqComm : h.r.left ≫ f = g ≫ h.r.right := h.r.w
+
+@[simp]
+lemma topCompId : h.i.left ≫ h.r.left = 𝟙 X := Arrow.hom.congr_left h.retract
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:54]:
```suggestion
lemma retract_left : h.i.left ≫ h.r.left = 𝟙 X := Arrow.hom.congr_left h.retract
```

File: Mathlib/CategoryTheory/Retract.lean [hunk 9]
```diff
@@ -0,0 +1,87 @@
...
+
+@[simp]
+lemma bottomCompId : h.i.right ≫ h.r.right = 𝟙 Y := Arrow.hom.congr_right h.retract
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:57]:
```suggestion
lemma retract_right : h.i.right ≫ h.r.right = 𝟙 Y := Arrow.hom.congr_right h.retract
```

File: Mathlib/CategoryTheory/Retract.lean [hunk 10]
```diff
@@ -0,0 +1,87 @@
...
+```
+A morphism `f : X ⟶ Y` is a retract of `g : Z ⟶ W` if there are morphisms `i : f ⟶ g`
+and `r : g ⟶ f` in the arrow category such that `i ≫ r = 𝟙 f`. -/
+abbrev RetractArrow {X Y Z W : C} (f : X ⟶ Y) (g : Z ⟶ W) := Retract (Arrow.mk f) (Arrow.mk g)
+
+namespace RetractArrow
+
+variable {X Y Z W : C} {f : X ⟶ Y} {g : Z ⟶ W} (h : RetractArrow f g)
+
+lemma leftSqComm : h.i.left ≫ g = f ≫ h.i.right := h.i.w
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:49]:
```suggestion
lemma i_w : h.i.left ≫ g = f ≫ h.i.right := h.i.w
```

File: Mathlib/CategoryTheory/Retract.lean [hunk 11]
```diff
@@ -0,0 +1,87 @@
...
+
+lemma rightSqComm : h.r.left ≫ f = g ≫ h.r.right := h.r.w
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:51]:
```suggestion
lemma r_w : h.r.left ≫ f = g ≫ h.r.right := h.r.w
```

File: Mathlib/CategoryTheory/Retract.lean [hunk 12]
```diff
@@ -0,0 +1,87 @@
...
+
+@[simp]
+lemma topCompId : h.i.left ≫ h.r.left = 𝟙 X := Arrow.hom.congr_left h.retract
+
+@[simp]
+lemma bottomCompId : h.i.right ≫ h.r.right = 𝟙 Y := Arrow.hom.congr_right h.retract
+
+@[simp]
+lemma topCompBottom : h.i.left ≫ g ≫ h.r.right = f := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:60]:
```suggestion
lemma fac : h.i.left ≫ g ≫ h.r.right = f := by
```

File: Mathlib/CategoryTheory/Retract.lean [hunk 13]
```diff
@@ -0,0 +1,87 @@
...
+end RetractArrow
+
+namespace MorphismProperty
+
+/-- A class of morphisms is stable under retracts if the retract of a morphism still
+lies in the class. -/
+class IsStableUnderRetracts (P : MorphismProperty C) : Prop where
+  of_Retract {X Y Z W : C} {f : X ⟶ Y} {g : Z ⟶ W} (h : RetractArrow f g) (hg : P g) : P f
+
+lemma of_Retract {P : MorphismProperty C} [P.IsStableUnderRetracts]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:72]:
```suggestion
lemma of_retract {P : MorphismProperty C} [P.IsStableUnderRetracts]
```

File: Mathlib/CategoryTheory/Retract.lean [hunk 14]
```diff
@@ -0,0 +1,87 @@
...
+  rw [← Category.assoc, leftSqComm, Category.assoc, bottomCompId, Category.comp_id]
+
+end RetractArrow
+
+namespace MorphismProperty
+
+/-- A class of morphisms is stable under retracts if the retract of a morphism still
+lies in the class. -/
+class IsStableUnderRetracts (P : MorphismProperty C) : Prop where
+  of_Retract {X Y Z W : C} {f : X ⟶ Y} {g : Z ⟶ W} (h : RetractArrow f g) (hg : P g) : P f
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:70]:
```suggestion
  of_retract {X Y Z W : C} {f : X ⟶ Y} {g : Z ⟶ W} (h : RetractArrow f g) (hg : P g) : P f
```

File: Mathlib/CategoryTheory/Retract.lean (hunk 10 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Retract.lean:49]: Also, all these lemmas should get the `reassoc` attribute.

File: Mathlib/CategoryTheory/Retract.lean [hunk 15]
```diff
@@ -0,0 +1,87 @@
...
+
+universe v u
+
+namespace CategoryTheory
+
+variable {C : Type u} [Category.{v} C]
+
+/-- An object `X` is a retract of `Y` if there are morphisms `i : X ⟶ Y` and `r : Y ⟶ X` such
+that `i ≫ r = 𝟙 X`. -/
+class Retract (X Y : C) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:23]: At some point, we may want to add a class `IsRetract` (I am not so sure), but the version with data should be a structure only:
```suggestion
structure Retract (X Y : C) where
```

File: Mathlib/CategoryTheory/Retract.lean [hunk 16]
```diff
@@ -0,0 +1,87 @@
...
+  /-- `i : X ⟶ Y` -/
+  i : X ⟶ Y
+  /-- `r : Y ⟶ X` -/
+  r : Y ⟶ X
+  /-- `i ≫ r = 𝟙 X` -/
+  retract : i ≫ r = 𝟙 X
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Retract.lean:30]: Some basic API seems necessary (import `CategoryTheory.EpiMono`):
```suggestion
namespace Retract

attribute [reassoc (attr := simp)] retract

variable {X Y : C} (h : Retract X Y)

@[simps] def splitEpi : SplitEpi h.r where
  section_ := h.i

@[simps] def splitMono : SplitMono h.i where
  retraction := h.r

instance : IsSplitEpi h.r := ⟨⟨h.splitEpi⟩⟩
instance : IsSplitMono h.i := ⟨⟨h.splitMono⟩⟩

end Retract
```
And then, similar definitions and instances for the `_left/_right` variants should be introduced in the `RetractArrow`.

**Comment by joelriou** [comment]
It could be advisable to split this PR into two:
* one for the basic `Retract` API
* one for the improvements to the `HasLiftingProperty` API I have suggested and the application to `rlp/llp`.

**Comment by mckoen** [comment]
> It could be advisable to split this PR into two:
> 
>     * one for the basic `Retract` API
> 
>     * one for the improvements to the `HasLiftingProperty` API I have suggested and the application to `rlp/llp`.

I think that's a good call. I'll split the PR.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 17]
```diff
@@ -0,0 +1,143 @@
...
+lemma liftOfRetractRight {X Y Z W X' Y' : C} {f : X ⟶ Y} {f' : X' ⟶ Y'} {g : Z ⟶ W}
+    (h : RetractArrow f' f) (h' : HasLiftingProperty g f) : HasLiftingProperty g f' where
+  sq_hasLift := fun {u v} sq ↦
+    ⟨h'.lift ⟨show (u ≫ h.i.left) ≫ f = g ≫ (v ≫ h.i.right)
+      by rw [← Category.assoc, ← sq.w, Category.assoc, i_w, Category.assoc]⟩ ≫ h.r.left,
+      by rw [← Category.assoc, CommSq.fac_left, Category.assoc, retract_left, Category.comp_id],
+      by rw [Category.assoc, r_w, ← Category.assoc, CommSq.fac_right, Category.assoc, retract_right,
+        Category.comp_id]⟩
+
+lemma llp.IsStableUnderRetracts {T : MorphismProperty C} : T.llp.IsStableUnderRetracts :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:54]:
```suggestion
lemma llp_isStableUnderRetracts (T : MorphismProperty C) : T.llp.IsStableUnderRetracts :=
```
Note: you should make `T` a global variable, as it appears basically everywhere.

File: Mathlib/CategoryTheory/LiftingProperties/Basic.lean [hunk 18]
```diff
@@ -127,6 +127,17 @@ theorem iff_of_arrow_iso_right {A B X Y X' Y' : C} (i : A ⟶ B) {p : X ⟶ Y} {
...
+  {f : A ⟶ X} {g : B ⟶ Y} (sq : CommSq f i p g)
+
+/-- A choice of a diagonal morphism that is part of a `LiftStruct` when
+the square has a lift. -/
+noncomputable abbrev lift : B ⟶ X := sq.lift
+
+theorem fac_left : i ≫ h.lift sq = f := sq.fac_left
+
+theorem fac_right : h.lift sq ≫ p = g := sq.fac_right
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LiftingProperties/Basic.lean:140]: This should be removed. (I had forgotten we had `CommSq.lift`.) As `HasLiftingProperty` is a typeclass, we should use it as much as possible as a `[...]` parameter.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 19]
```diff
@@ -0,0 +1,143 @@
...
+  ∀ ⦃X Y : C⦄ ⦃g : X ⟶ Y⦄ (_ : T g), HasLiftingProperty g f
+
+open RetractArrow in
+lemma liftOfRetractLeft {X Y Z W Z' W' : C} {f : X ⟶ Y} {g : Z ⟶ W} {g' : Z' ⟶ W'}
+    (h : RetractArrow g' g) (h' : HasLiftingProperty g f) : HasLiftingProperty g' f where
+  sq_hasLift := fun {u v} sq ↦
+    ⟨h.i.right ≫ h'.lift ⟨show (h.r.left ≫ u) ≫ f = g ≫ (h.r.right ≫ v) by simp [sq.w]⟩,
+      by rw [← Category.assoc, ← i_w, Category.assoc, CommSq.fac_left, ← Category.assoc,
+        retract_left, Category.id_comp],
+      by rw [Category.assoc, CommSq.fac_right, ← Category.assoc, retract_right, Category.id_comp]⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:42]: I believe this should be the better design:
```suggestion
lemma _root_.CategoryTheory.RetractArrow.leftLiftingProperty
    {X Y Z W Z' W' : C} {g : Z ⟶ W} {g' : Z' ⟶ W'}
    (h : RetractArrow g' g) (f : X ⟶ Y) [HasLiftingProperty g f] : HasLiftingProperty g' f where
  sq_hasLift := fun {u v} sq ↦ by
    have sq' : CommSq (h.r.left ≫ u) g f (h.r.right ≫ v) := by simp [sq.w]
    exact
      ⟨⟨{ l := h.i.right ≫ sq'.lift
          fac_left := by
            simp only [← cancel_epi h.r.left]
            conv_rhs => rw [← sq'.fac_left]
            simp [← h.i_w_assoc]
          fac_right := by simp}⟩⟩
```

Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:42]: The general lemmas about `HasLiftingProperty` should go into a file in `Mathlib.CategoryTheory.LiftingProperties`.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 20]
```diff
@@ -0,0 +1,143 @@
...
+    T.llp.IsStableUnderCobaseChange where
+  of_isPushout {_ _ _ _ f s _ t} P hf _ _ g hg := {
+    sq_hasLift := fun {u v} sq ↦ by
+      have w : (s ≫ u) ≫ g = f ≫ (t ≫ v) := by
+        rw [← Category.assoc, ← P.toCommSq.w, Category.assoc, Category.assoc, sq.w]
+      exact ⟨P.desc u ((hf hg).lift ⟨w⟩) (by rw [CommSq.fac_left]), P.inl_desc ..,
+        P.hom_ext (by rw [inl_desc_assoc, sq.w]) (by rw [inr_desc_assoc, CommSq.fac_right])⟩}
+
+open IsPullback in
+instance rlp.IsStableUnderBaseChange {T : MorphismProperty C} :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:71]: This should be split in a lemma about `HasLiftingProperty` and a lemma about `rlp`.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 21]
```diff
@@ -0,0 +1,143 @@
...
+
+instance llp.IsMultiplicative (T : MorphismProperty C) : T.llp.IsMultiplicative where
+  id_mem := T.llp.id_mem
+  comp_mem := T.llp.comp_mem
+
+instance rlp.IsMultiplicative (T : MorphismProperty C) : T.rlp.IsMultiplicative where
+  id_mem := T.rlp.id_mem
+  comp_mem := T.rlp.comp_mem
+
+instance llp.RespectsIso (T : MorphismProperty C) : T.llp.RespectsIso where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:111]: It would be easier to deduce this from the fact that `llp` is multiplicative and contains isomorphisms.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 22]
```diff
@@ -0,0 +1,143 @@
...
+    T.rlp.IsStableUnderBaseChange where
+  of_isPullback {_ _ _ _ t f s _} P hf _ _ g hg := {
+    sq_hasLift := fun {u v} sq ↦ by
+      have w : (u ≫ s) ≫ f = g ≫ v ≫ t := by
+        rw [Category.assoc, P.toCommSq.w, ← Category.assoc, ← Category.assoc, sq.w]
+      exact ⟨P.lift ((hf hg).lift (.mk w)) v (by rw [CommSq.fac_right]),
+        P.hom_ext (by rw [Category.assoc, lift_fst, CommSq.fac_left])
+          (by rw [Category.assoc, lift_snd, sq.w]), P.lift_snd _ _ _⟩}
+
+instance llp.ContainsIdentities (T : MorphismProperty C) : T.llp.ContainsIdentities :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:81]: We can use the known results about `HasLiftingProperty`:
```suggestion
instance llp_isMultiplicative (T : MorphismProperty C) : T.llp.IsMultiplicative where
  id_mem X _ _ p hp := by infer_instance
  comp_mem i j hi hj _ _ p hp := by
    have := hi hp
    have := hj hp
    infer_instance
```

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 23]
```diff
@@ -0,0 +1,143 @@
...
+
+namespace CategoryTheory
+
+variable {C : Type u} [Category.{v} C]
+
+namespace MorphismProperty
+
+/-- The left lifting property (llp) with respect to a class of morphisms. -/
+def llp (T : MorphismProperty C) : MorphismProperty C := fun _ _ f ↦
+  ∀ ⦃X Y : C⦄ ⦃g : X ⟶ Y⦄ (_ : T g), HasLiftingProperty f g
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:29]: In the applications, I believe it will be easier to have `g` as an explicit parameter.
```suggestion
  ∀ ⦃X Y : C⦄ (g : X ⟶ Y) (_ : T g), HasLiftingProperty f g
```
(The idea is that when we want to apply `llp`, we feed `g`, which creates the goal `T g`.)

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean (hunk 22 above)
Comment (mckoen) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:81]: Thanks, I hadn't looked very closely at the `HasLiftingProperty` API when I was writing this.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean (hunk 21 above)
Comment (mckoen) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:111]: Turns out it's inferred from `IsStableUnderBaseChange` anyway.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean (hunk 19 above)
Comment (mckoen) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:42]: Thanks for the feedback! What does `_root_` denote?

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean (hunk 20 above)
Comment (mckoen) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:71]: Should the lemma I extract be called `_root_.CategoryTheory.IsPushout.rightLiftingProperty` like the one above (about `RetractArrow`)?

Comment (mckoen) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:71]: Also, I should move these lemmas to a file in `Mathlib.CategoryTheory.LiftingProperties`, but keep their names as `CategoryTheory.RetractArrow.leftLiftingProperty` and `CategoryTheory.IsPushout.rightLiftingProperty`, etc.?

**Comment by mckoen** [comment]
So I've defined `IsStableUnderCoproductsOfShape` and shown that llp satisfies it, with a similar statement for rlp. I'm not sure on the names or files that the auxiliary lemmas and definitions should go in though.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean (hunk 19 above)
Comment (jcommelin) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean]: `_root_` refers to the root namespace. It is a way to define a lemma while you are working inside a namespace, but give it a name outside the namespace.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean (hunk 20 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean]: Yes, the lemmas about `HasLiftingProperty` should go to `LiftingProperties.*`. Instead of `CategoryTheory.IsPushout.leftLiftingProperty`, I would suggest `CategoryTheory.IsPushout.hasLiftingProperty`, because the conclusion of the lemma is a term of the form `HasLiftingProperty _ _`.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 24]
```diff
@@ -0,0 +1,197 @@
...
+
+lemma _root_.CategoryTheory.RetractArrow.rightLiftingProperty
+    {X Y Z W X' Y' : C} {f : X ⟶ Y} {f' : X' ⟶ Y'}
+    (h : RetractArrow f' f) (g : Z ⟶ W) [HasLiftingProperty g f] : HasLiftingProperty g f' where
+  sq_hasLift := fun {u v} sq ↦ by
+    have sq' : CommSq (u ≫ h.i.left) g f (v ≫ h.i.right) :=
+      ⟨by rw [← Category.assoc, ← sq.w, Category.assoc, RetractArrow.i_w, Category.assoc]⟩
+    exact
+      ⟨⟨{ l := sq'.lift ≫ h.r.left
+          fac_left := by simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:55]: In the definition of `LiftStruct` in the file `CommSq.lean`, we should add `:= by aesop_cat` as the default value of `fac_left` and `fac_right`, so that some proofs could be found automatically.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 25]
```diff
@@ -0,0 +1,197 @@
...
+  ι := { app j :=
+          have w : (c₁.ι.app j ≫ u) ≫ g = f.app j ≫ c₂.ι.app j ≫ v := by
+            simp [sq.w]
+          (CommSq.mk w).lift
+         naturality := fun j j' h ↦ by
+          cases j with | mk as =>
+          have := Discrete.eq_of_hom h
+          aesop}
+
+lemma llp.IsStableUnderCoproductsOfShape (J : Type*) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:145]:
```suggestion
lemma llp_isStableUnderCoproductsOfShape (J : Type*) :
```

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 26]
```diff
@@ -0,0 +1,197 @@
...
+```
+
+Given lifting problems indexed by `J` of the above form, construct a cone of `X₁` with point `B`
+whose components `B ⟶ X₁.obj j` are given by solutions of the lifting problems.
+
+-/
+@[simp]
+noncomputable
+def newCone {J : Type*} {X₁ X₂ : Discrete J ⥤ C}
+    {c₁ : Limits.Cone X₁} {c₂ : Limits.Cone X₂} {h₂ : Limits.IsLimit c₂} {f : X₁ ⟶ X₂}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:171]: You should `open Limits` at the beginning of the file.

File: Mathlib/CategoryTheory/LiftingProperties/Limits.lean [hunk 27]
```diff
@@ -0,0 +1,105 @@
...
+universe v
+
+namespace CategoryTheory
+
+open Category Limits
+
+variable {C : Type*} [Category C] {X Y Z W : C}
+  {f : X ⟶ Y} {s : X ⟶ Z} {g : Z ⟶ W} {t : Y ⟶ W}
+
+lemma IsPushout.HasLiftingProperty (h : IsPushout s f g t)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LiftingProperties/Limits.lean:25]:
```suggestion
lemma IsPushout.hasLiftingProperty (h : IsPushout s f g t)
```

File: Mathlib/CategoryTheory/LiftingProperties/Limits.lean [hunk 28]
```diff
@@ -0,0 +1,105 @@
...
+    {Z' W' : C} (g' : Z' ⟶ W') [HasLiftingProperty f g'] : HasLiftingProperty g g' where
+  sq_hasLift := fun {u v} sq ↦ by
+    have w : (s ≫ u) ≫ g' = f ≫ (t ≫ v) := by
+      rw [← Category.assoc, ← h.w, Category.assoc, Category.assoc, sq.w]
+    exact ⟨h.desc u (CommSq.mk w).lift (by rw [CommSq.fac_left]), h.inl_desc ..,
+      h.hom_ext (by rw [h.inl_desc_assoc, sq.w]) (by rw [h.inr_desc_assoc, CommSq.fac_right])⟩
+
+lemma IsPullback.HasLiftingProperty (h : IsPullback s f g t)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LiftingProperties/Limits.lean:33]:
```suggestion
lemma IsPullback.hasLiftingProperty (h : IsPullback s f g t)
```

File: Mathlib/CategoryTheory/LiftingProperties/Limits.lean [hunk 29]
```diff
@@ -0,0 +1,105 @@
...
+B ---v---> c₂.pt ---π---> X₂.obj j
+```
+
+Given lifting problems indexed by `J` of the above form, construct a cone of `X₁` with point `B`
+whose components `B ⟶ X₁.obj j` are given by solutions of the lifting problems.
+
+-/
+@[simp]
+noncomputable
+def Limits.productOfShapeLiftingCone {J : Type*} {X₁ X₂ : Discrete J ⥤ C}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LiftingProperties/Limits.lean:58]: I would suggest using the name `HasLiftingProperty.productLiftingCone` for this definition.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 30]
```diff
@@ -0,0 +1,91 @@
...
+
+universe v u
+
+namespace CategoryTheory
+
+variable {C : Type u} [Category.{v} C] (T : MorphismProperty C)
+
+namespace MorphismProperty
+
+/-- The left lifting property (llp) with respect to a class of morphisms. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:28]:
```suggestion
/-- Given `T : MorphismProperty C`, this is the class of morphisms that have the
left lifting property (llp) with respect to `T`. -/
```

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 31]
```diff
@@ -0,0 +1,91 @@
...
+def llp : MorphismProperty C := fun _ _ f ↦
+  ∀ ⦃X Y : C⦄ (g : X ⟶ Y) (_ : T g), HasLiftingProperty f g
+
+/-- The right lifting property (rlp) with respect to a class of morphisms. -/
+def rlp : MorphismProperty C := fun _ _ f ↦
+  ∀ ⦃X Y : C⦄ (g : X ⟶ Y) (_ : T g), HasLiftingProperty g f
+
+lemma llp.IsStableUnderRetracts : T.llp.IsStableUnderRetracts where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:36]:
```suggestion
lemma llp_isStableUnderRetracts : T.llp.IsStableUnderRetracts where
```

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 32]
```diff
@@ -0,0 +1,91 @@
+/-
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:1]: `LiftingProperty.lean` would be a slightly better name for this file.

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 33]
```diff
@@ -0,0 +1,91 @@
...
+  ∀ ⦃X Y : C⦄ (g : X ⟶ Y) (_ : T g), HasLiftingProperty f g
+
+/-- The right lifting property (rlp) with respect to a class of morphisms. -/
+def rlp : MorphismProperty C := fun _ _ f ↦
+  ∀ ⦃X Y : C⦄ (g : X ⟶ Y) (_ : T g), HasLiftingProperty g f
+
+lemma llp.IsStableUnderRetracts : T.llp.IsStableUnderRetracts where
+  of_retract h hg _ _ f hf :=
+    letI := hg _ hf
+    RetractArrow.leftLiftingProperty h f
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:39]:
```suggestion
    h.leftLiftingProperty f
```

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 34]
```diff
@@ -0,0 +1,91 @@
...
+
+lemma rlp.IsStableUnderRetracts : T.rlp.IsStableUnderRetracts where
+  of_retract h hf _ _ g hg :=
+    letI := hf _ hg
+    RetractArrow.rightLiftingProperty h g
+
+instance llp.IsStableUnderCobaseChange : T.llp.IsStableUnderCobaseChange where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:46]:
```suggestion
instance llp_sStableUnderCobaseChange : T.llp.IsStableUnderCobaseChange where
```

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 35]
```diff
@@ -0,0 +1,91 @@
...
+    infer_instance
+
+instance rlp.IsMultiplicative : T.rlp.IsMultiplicative where
+  id_mem X _ _ p hp := by infer_instance
+  comp_mem i j hi hj _ _ p hp := by
+    have := hi _ hp
+    have := hj _ hp
+    infer_instance
+
+lemma llp_IsStableUnderCoproductsOfShape (J : Type*) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:71]:
```suggestion
lemma llp_isStableUnderCoproductsOfShape (J : Type*) :
```

File: Mathlib/CategoryTheory/LiftingProperties/Limits.lean (hunk 29 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/LiftingProperties/Limits.lean:58]: (Actually, this definition and the next can be removed, see suggestions below.)

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 36]
```diff
@@ -0,0 +1,91 @@
...
+    letI := hf _ hg'
+    IsPushout.HasLiftingProperty h g'
+
+open IsPullback in
+instance rlp.IsStableUnderBaseChange : T.rlp.IsStableUnderBaseChange where
+  of_isPullback h hf _ _ f' hf' :=
+    letI := hf _ hf'
+    IsPullback.HasLiftingProperty h f'
+
+instance llp.IsMultiplicative : T.llp.IsMultiplicative where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:57]:
```suggestion
instance llp_isMultiplicative : T.llp.IsMultiplicative where
```

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean [hunk 37]
```diff
@@ -0,0 +1,91 @@
...
+    infer_instance
+
+lemma llp_IsStableUnderCoproductsOfShape (J : Type*) :
+    T.llp.IsStableUnderCoproductsOfShape J := fun _ _ _ _ h₁ h₂ f hf _ _ g hg ↦ {
+  sq_hasLift sq :=
+    ⟨⟨{ l :=
+          letI : ∀ j, HasLiftingProperty (f.app j) g := fun j ↦ hf j g hg
+          h₂.desc (Limits.coproductOfShapeLiftingCocone sq)
+        fac_left := h₁.hom_ext (by simp)
+        fac_right := h₂.hom_ext (by simp)}⟩⟩}
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Lifting.lean:78]:
```suggestion
    T.llp.IsStableUnderCoproductsOfShape J := by
  apply IsStableUnderCoproductsOfShape.mk
  intro A B _ _ f hf X Y p hp
  have := fun j ↦ hf j _ hp
  refine ⟨fun {t b} sq ↦ ?_⟩
  have sq' (j : J) :
      CommSq (Sigma.ι _ j ≫ t) (f j) p (Sigma.ι _ j ≫ b) :=
    ⟨by simp [sq.w]⟩
  exact ⟨⟨{ l := Sigma.desc (fun j ↦ (sq' j).lift) }⟩⟩
```
(Note: this depends on an additional lemma in `MorphismProperty.Limits` below.)

File: Mathlib/CategoryTheory/MorphismProperty/Limits.lean [hunk 38]
```diff
@@ -234,11 +248,20 @@ lemma IsStableUnderLimitsOfShape.lim_map {J : Type*} [Category J]
...
+
 variable (W)
 
 /-- The property that a morphism property `W` is stable under products indexed by a type `J`. -/
 abbrev IsStableUnderProductsOfShape (J : Type*) := W.IsStableUnderLimitsOfShape (Discrete J)
 
+/-- The property that a morphism property `W` is stable under coproducts indexed by a type `J`. -/
+abbrev IsStableUnderCoproductsOfShape (J : Type*) := W.IsStableUnderColimitsOfShape (Discrete J)
+
 lemma IsStableUnderProductsOfShape.mk (J : Type*)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Limits.lean:265]: We should use the following better phrasing for this lemma and its dual, which can be used in the proof of `llp_isStableUnderCoproductsOfShape`:
```lean
lemma IsStableUnderProductsOfShape.mk (J : Type*) [W.RespectsIso]
    (hW : ∀ (X₁ X₂ : J → C) [HasProduct X₁] [HasProduct X₂]
      (f : ∀ j, X₁ j ⟶ X₂ j) (_ : ∀ (j : J), W (f j)),
      W (Limits.Pi.map f)) : W.IsStableUnderProductsOfShape J := by
  sorry

lemma IsStableUnderProductsOfShape.mk (J : Type*)
    [W.RespectsIso]
    (hW : ∀ (X₁ X₂ : J → C) [HasProduct X₁] [HasProduct X₂]
      (f : ∀ j, X₁ j ⟶ X₂ j) (_ : ∀ (j : J), W (f j)),
      W (Limits.Pi.map f)) : W.IsStableUnderProductsOfShape J := by
  sorry
```

File: Mathlib/CategoryTheory/MorphismProperty/Lifting.lean (hunk 37 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Lifting.lean]: Actually, this should be:
```lean
lemma llp_IsStableUnderCoproductsOfShape (J : Type*) :
    T.llp.IsStableUnderCoproductsOfShape J := by
  apply IsStableUnderCoproductsOfShape.mk
  intro A B _ _ f hf X Y p hp
  have := fun j ↦ hf j _ hp
  infer_instance
```
and the following instance should be added in `LiftingProperties.Limits`:
```lean

instance {J : Type*} {A B : J → C} [HasCoproduct A] [HasCoproduct B]
    (f : (j : J) → A j ⟶ B j) {X Y : C} (p : X ⟶ Y)
    [∀ j, HasLiftingProperty (f j) p] :
    HasLiftingProperty (Limits.Sigma.map f) p where
  sq_hasLift {t b} sq := by
    have sq' (j : J) :
        CommSq (Sigma.ι _ j ≫ t) (f j) p (Sigma.ι _ j ≫ b) :=
      ⟨by simp [sq.w]⟩
    exact ⟨⟨{ l := Sigma.desc (fun j ↦ (sq' j).lift) }⟩⟩
```

File: Mathlib/CategoryTheory/LiftingProperties/Limits.lean [hunk 39]
```diff
@@ -0,0 +1,105 @@
...
+
+lemma IsPullback.hasLiftingProperty (h : IsPullback s f g t)
+    {X' Y' : C} (f' : X' ⟶ Y') [HasLiftingProperty f' g] : HasLiftingProperty f' f where
+  sq_hasLift := fun {u v} sq ↦ by
+    have w : (u ≫ s) ≫ g = f' ≫ v ≫ t := by
+      rw [Category.assoc, h.toCommSq.w, ← Category.assoc, ← Category.assoc, sq.w]
+    exact ⟨h.lift (CommSq.mk w).lift v (by rw [CommSq.fac_right]),
+      h.hom_ext (by rw [Category.assoc, h.lift_fst, CommSq.fac_left])
+        (by rw [Category.assoc, h.lift_snd, sq.w]), h.lift_snd _ _ _⟩
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LiftingProperties/Limits.lean:41]: You should add the following instances:
```lean
instance [HasPushout s f] {T₁ T₂ : C} (p : T₁ ⟶ T₂) [HasLiftingProperty f p] :
    HasLiftingProperty (pushout.inl s f) p :=
  (IsPushout.of_hasPushout s f).hasLiftingProperty p

instance [HasPushout s f] {T₁ T₂ : C} (p : T₁ ⟶ T₂) [HasLiftingProperty s p] :
    HasLiftingProperty (pushout.inr s f) p :=
  (IsPushout.of_hasPushout s f).flip.hasLiftingProperty p
```

Comment (joelriou) [reply Mathlib/CategoryTheory/LiftingProperties/Limits.lean:41]: (And similarly for `pullback.fst/snd`.)

File: Mathlib/CategoryTheory/MorphismProperty/Limits.lean [hunk 40]
```diff
@@ -158,6 +158,13 @@ theorem IsStableUnderCobaseChange.mk' {P : MorphismProperty C} [RespectsIso P]
     rw [← P.cancel_right_of_respectsIso _ e.hom, sq.flip.inr_isoPushout_hom]
     exact hP₂ _ _ _ f g hf
 
+instance IsStableUnderCobaseChange.isomorphisms :
+    (isomorphisms C).IsStableUnderCobaseChange where
+  of_isPushout {_ _ _ _ f g _ _} h hf :=
+    have : IsIso f := hf
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Limits.lean:164]:
```suggestion
  of_isPushout {_ _ _ _ f g _ _} h (_ : IsIso f) :=
```

File: Mathlib/CategoryTheory/MorphismProperty/Limits.lean [hunk 41]
```diff
@@ -254,15 +276,83 @@ lemma IsStableUnderProductsOfShape.mk (J : Type*)
   rintro ⟨j⟩
   simp [φ]
 
+/-- another version of `IsStableUnderProductsOfShape.mk`. -/
+lemma IsStableUnderProductsOfShape.mk' (J : Type*) [W.RespectsIso]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/Limits.lean:280]: This should *replace* `mk` as it is slightly more general.

Comment (mckoen) [reply Mathlib/CategoryTheory/MorphismProperty/Limits.lean:280]: Gotcha! :)

**Comment by joelriou** [comment]
Thanks!

bors merge
